US08895745B2
Step One—4-Bromo-pyrazole-1-sulfonic acid dimethylamide
To a solution of 4-bromopyrazole (2.20 g, 15 mmol) and DABCO (1.85 g, 16.5 mmol) in anhydrous MeCN (15 ml) at room temperature was added dimethylsulfamoyl chloride (1.61 ml, 15 mmol). The reaction mixture was stirred for 20 h, then partitioned between 1N HCl(aq) and EtOAc. The aqueous layer was extracted with EtOAc (×2), the organics combined, washed with brine (×1), dried (MgSO4), filtered and the solvent removed in vacuo to afford a colourless liquid. (3.79 g). 1H NMR (400 MHz, CDCl3): 8.00 (1H, s), 7.70 (1H, s), 2.99 (6H, s).

reactant | 4-bromopyrazole | 15 mmol, 2.20 g | BrC=1C=NNC1 | C3H3BrN2
reactant | DABCO | 16.5 mmol, 1.85 g | C1CN2CCN1CC2 | C6H12N2
reactant | dimethylsulfamoyl chloride | 15 mmol, 1.61 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | MeCN | 15 ml | CC#N | C2H3N
product | 4-Bromo-pyrazole-1-sulfonic acid dimethylamide | CN(S(=O)(=O)N1N=CC(=C1)Br)C | C5H8BrN3O2S
